US04337256
1-Amino-2-(2-methylphenyl)ethane was reacted with 4-methoxybenzoyl chloride in the same way as in step (a) of Example 1 to afford 1-(4-methoxybenzoylamino)-2-(2-methylphenyl)ethane having a melting point of 81.8° to 82.1° C.

reactant | 1-Amino-2-(2-methylphenyl)ethane | NCCC1=C(C=CC=C1)C | C9H13N
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 1-(4-methoxybenzoylamino)-2-(2-methylphenyl)ethane | COC1=CC=C(C(=O)NCCC2=C(C=CC=C2)C)C=C1 | C17H19NO2
